US04518597
7-(4-Phenylmercapto-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 210 from 7-(4-methanesulfonyloxy-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and thiophenol.

reactant | 7-(4-methanesulfonyloxy-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | CS(=O)(=O)OCCCCOC1=CC2=C(C(OC(N2)=O)(C)C)C=C1 | C15H21NO6S
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
product | 7-(4-Phenylmercapto-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | C1(=CC=CC=C1)SCCCCOC1=CC2=C(C(OC(N2)=O)(C)C)C=C1 | C20H23NO3S
